US08865736B2
3-[(3-Hydroxybenzyl)oxy]benzenecarboxamide
A solution of K2CO3 (500 mg, 3.62 mmol, 5.75 equiv.) in water (5 ml) was added to a solution of 3-[3-(aminocarbonyl)phenoxy]methylphenyl acetate (180 mg, 0.63 mmol, 1 equiv.) and the mixture was stirred at r.t., under N2, for 3 h; The mixture was acidified with 10% HCl solution to pH 1, and was extracted with EtOAc (2×30 ml). The combined organic extracts were washed with water (30 ml), dried (Na2SO4) and evaporated to dryness under reduced pressure, to give a clear oil residue which, after trituration with Et2O, solidified to a white solid (70 mg, 46% yield). Mp 122-123° C., HPLC-MS (method 1): m/z 244 [M+H]+. Rt=2.92 min.

reactant | K2CO3 | 3.62 mmol, 500 mg, 5.75 equiv. | C(=O)([O-])[O-].[K+].[K+]
reactant | 3-[3-(aminocarbonyl)phenoxy]methylphenyl acetate | 0.63 mmol, 180 mg, 1 equiv. | C(C)(=O)OC1=CC(=CC=C1)COC1=CC(=CC=C1)C(=O)N | C16H15NO4
reactant | HCl | Cl | ClH
reactant | Et2O | CCOCC | C4H10O
solvent | water | 5 ml | O | H2O
product | 3-[(3-Hydroxybenzyl)oxy]benzenecarboxamide | 70 mg, 46% yield | OC=1C=C(COC=2C=C(C=CC2)C(=O)N)C=CC1 | C14H13NO3
